US05236952
550 mg of 2-fluoro-3-hydroxy-5-nitro-p-anisonitrile are dissolved in 30 ml of methylene chloride, whereupon the solution is treated with 0.44 ml of boron tribromide. After stirring at 23° for 6 hours an additional 0.1 ml of boron tribromide are added thereto, whereupon the mixture is stirred at 23° for an additional 1.5 hours. Thereupon, 3 ml of ethanol are added thereto at -15°. The reaction mixture is evaporated and the residue is dried in a high vacuum at 23°. By recrystallization from ether/hexane there is obtained 2-fluoro-3,4-dihydroxy-5-nitrobenzonitrile of m.p. 154°.

reactant | 2-fluoro-3-hydroxy-5-nitro-p-anisonitrile | 550 mg | FC1=C(C#N)C=C(C(=C1O)OC)[N+](=O)[O-] | C8H5FN2O4
reactant | boron tribromide | 0.44 ml | B(Br)(Br)Br | BBr3
reactant | boron tribromide | 0.1 ml | B(Br)(Br)Br | BBr3
reactant | ethanol | 3 ml | C(C)O | C2H6O
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 2-fluoro-3,4-dihydroxy-5-nitrobenzonitrile | FC1=C(C#N)C=C(C(=C1O)O)[N+](=O)[O-] | C7H3FN2O4
